US06248739B1
N-(4-Chlorobenzyl)-1-(dimethylamino)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
Ethyl 1-(dimethylamino-4-oxo-1,4-dihydro-3-quinolinecarboxylate (0.21 g) of Preparation No. 59 and 4-chlorobenzylamine (1.2 mL) are heated to 180° C. for 10 hrs under nitrogen. The product is precipitated from the cooled reaction mixture by dilution with a mixture of toluene and hexanes. The crude product is then recrystallized from aqueous acetic acid to give 0.030 g of the title compound.

reactant | dimethylamino-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 0.21 g | CN(C)N1C=C(C(C2=CC=CC=C12)=O)C(=O)[O-]
reactant | 4-chlorobenzylamine | 1.2 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-1-(dimethylamino)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.030 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=CC=C3C2=O)N(C)C)C=C1 | C19H18ClN3O2
